US06306463B1
N,N′,N″-tri-iso-butylcitramide was prepared by the reaction of iso-butylamine with triethylcitrate. To a round-bottomed flask were added triethylcitrate (30.001 g; 1 eq), iso-butylamine (24.034 g; 3.03 eq) and methanol (40 mL). The clear light yellow solution stirred for 2 days at room temperature and then additional isobutylamine (3.06 eq) was added. After stirring overnight, a wet white solid was observed. Methanol was removed in vacuo and the solid was triturated using diethylether, collected via filtration and dried in vacuo to give a white powder with no detectable odor (31.09 g; 80.3% yield).

reactant | iso-butylamine | C(C(C)C)N | C4H11N
reactant | triethylcitrate | C(C)C(C(C(C(=O)[O-])(CC)CC)(O)C(=O)[O-])C(=O)[O-]
reactant | triethylcitrate | 30.001 g, 1 eq | C(C)C(C(C(C(=O)[O-])(CC)CC)(O)C(=O)[O-])C(=O)[O-]
reactant | iso-butylamine | 24.034 g, 3.03 eq | C(C(C)C)N | C4H11N
reactant | isobutylamine | 3.06 eq | C(C(C)C)N | C4H11N
solvent | methanol | 40 mL | CO | CH4O
product | N,N′,N″-tri-iso-butylcitramide | 80.3% yield | C(C(C)C)NC(CC(O)(C(=O)NCC(C)C)CC(=O)NCC(C)C)=O | C18H35N3O4
